test of isrc trnoise and trrandom isrc, vsrc
* 1/f noise current
i1 1 2 DC 0 TRNOISE(0.05 8p 0 1.0 0.001)
i2 2 0 DC 0 TRNOISE(0.05 8p 0 1.0 0.001)

r1 1 2 1
r2 2 0 1

* gaussian (type=2) noise
i3 3 0 DC 0 TRRANDOM(2 8p 0 1.0 0.01)
R3 3 0 1

v4 4 0 DC 0 TRRANDOM(2 8p 0 1.0 0.01)
*R4 4 0 1

.tran 8p 200n

.control
run
alter @i1[trnoise] = [ 0.1 8p 0 1.5 0.002 ] $ more noise
alter @i2[trnoise] = [ 0.1 8p 0 1.5 0.002 ] $ more noise

alter @i3[trrandom] = [ 2 8p 0 1.5 0.02 ] $ more noise
alter @v4[trrandom] = [ 2 8p 0 1.5 0.02 ] $ more noise

run
plot tran2.v(1) tran1.v(1)
plot tran2.v(3) tran1.v(3) ylimit -6 6
plot tran2.v(4) tran1.v(4) ylimit -6 6
.endc

.end
